US07470723B2
Lithium bis(trimethylsilyl)amide (8.8 mL, 8.8 mmol) was added dropwise to a stirred suspension of (ethyl)triphenylphosphonium bromide (3.28 g, 8.8 mmol) in anhydrous THF (30 mL) at 0° C. After 10 min at cold, the reaction mixture was stirred at room temperature for 40 min. The Wittig reagent was then added dropwise to a stirred solution of (3,5-dimethoxy-phenyl)-(4-methoxy-3-nitro-phenyl)-methanone (1.40 g, 4.4 mmol) in THF (30 mL) at 0° C. The reaction mixture was stirred at room temperature for 1 h. The solution was poured into ice water (100 mL) and extracted with CH2Cl2 (4×40 mL). The combined organic layers were washed with water (2×40 mL), brine (40 mL) and dried (MgSO4). Removal of solvent and chromatography (Silica Gel) gave a mixture of (E/Z) 4-[1-(3,5-dimethoxy-phenyl)-propenyl]-1-methoxy-2-nitro-benzene as an oil (1.40 g, 97% yield): 1H NMR (CDCl3) δ 1.76-1.79 (d, J=6.5 Hz, 6H, 2CH3), 3.75-3.78 (2s, 12H, 4OCH3), 3.93-3.99 (2s, 6H, 2OCH3), 6.12-6.22 (m, 2H, 2CH), 6.29-7.75 (m, 12H, Ar); 13C NMR (CDCl3) δ 15.68, 15.71, 55.33, 56.57, 99.04, 99.29, 105.82, 107.91, 113.09, 113.27, 123.68, 125.01, 125.92, 127.04, 132.21, 132.48, 135.34, 135.80, 139.92, 140.83, 144.27, 151.63, 151.85, 160.63, 160.85.

reactant | Lithium bis(trimethylsilyl)amide | 8.8 mmol, 8.8 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (3,5-dimethoxy-phenyl)-(4-methoxy-3-nitro-phenyl)-methanone | 4.4 mmol, 1.40 g | COC=1C=C(C=C(C1)OC)C(=O)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C16H15NO6
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | (ethyl)triphenylphosphonium bromide | 8.8 mmol, 3.28 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[1-(3,5-dimethoxy-phenyl)-propenyl]-1-methoxy-2-nitro-benzene | 1.40 g, 97% yield | COC=1C=C(C=C(C1)OC)C(=CC)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C18H19NO5
